US09255096B1
3-(1,4-dihydrobenzo[c]-2,7-naphthyridin-3(2H)-yl)benzoic acid
A 250 mL single-necked, round-bottomed flask was equipped with a magnetic stirrer and stir bar, 125 mL addition funnel, and a nitrogen inlet. To the flask was added a solution of methyl 3-(1,4-dihydrobenzo[c]-2,7-naphthyridin-3(2H)-yl)benzoate (6.0 g, 18.84 mmol) in methanol (60 mL). The stirred batch was treated drop-wise over 10 minutes with a solution of 3 N aqueous sodium hydroxide (38 mL) and methanol (30 mL). A yellow precipitate appeared and re-dissolved. The batch was stirred at ambient temperature for 18 hours. Solvent was removed under reduced pressure and the stirred aqueous residue was acidified to pH 6-7 with 3 N aqueous hydrochloric acid (˜38 mL). The resulting slurry was stirred at 23° C. for 2 hours. The solid was collected on a filter and rinsed with water (4 mL). More product was extracted from the filtrate with a 2:1 (v/v) mixture of 2-methyltetrahydro-furan-tetrahydrofuran (30×300 mL). The combined organic extracts were concentrated in vacuo to provide a residue. This residue was transferred to a small fritted glass funnel where it was swished consecutively with water (5 mL), 4:1 (v/v) tetrahydrofuran-methanol (20 mL), 8:1 (v/v) dichloromethane-methanol (8 mL), and 5:1 (v/v) dichloro-methane-methanol (9 mL), sucking the solvent through the frit each time. This material was then thoroughly mixed with the first crop and placed in a small fritted glass funnel. An final swish with diethyl ether (25 mL) was performed and the solid was dried at 23° C. in a vacuum oven to constant weight. In this way the title compound was obtained as a bright yellow solid (4.7 g, 83% yield) of >99 A % purity by HPLC analysis.

reactant | methyl 3-(1,4-dihydrobenzo[c]-2,7-naphthyridin-3(2H)-yl)benzoate | 18.84 mmol, 6.0 g | C1C=2C3=C(N=CC2CN(C1)C=1C=C(C(=O)OC)C=CC1)C=CC=C3 | C20H18N2O2
reactant | sodium hydroxide | 3 N, 38 mL | [OH-].[Na+]
reactant | water | 5 mL | O | H2O
reactant | tetrahydrofuran-methanol | 20 mL | O1C(CCC1)CO | C5H10O2
solvent | methanol | 60 mL | CO | CH4O
solvent | methanol | 30 mL | CO | CH4O
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
solvent | dichloro-methane methanol | 9 mL | ClCCl.CO
solvent | dichloromethane methanol | 8 mL | ClCCl.CO
product | 3-(1,4-dihydrobenzo[c]-2,7-naphthyridin-3(2H)-yl)benzoic acid | C1C=2C3=C(N=CC2CN(C1)C=1C=C(C(=O)O)C=CC1)C=CC=C3 | C19H16N2O2
